US09315467B2
Preparation of 4-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-benzoic acid (Compound 52) [PTC-0169003]
Part B. To a mixture of 3-dimethylamino-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one (290.1 mg, 1.13 mmol), 4-carbamimidoyl-benzoic acid tert-butyl ester (220.3 mg, 1.00 mmol, prepared by the same manner as 3-carbamimidoyl-benzoic acid tert-butyl ester) and sodium hydride (79.9 mg, 2.00 mmol, 60% in hexanes) is added dry ethanol (5.0 mL). The resulting mixture is stirred at refluxing for 14 h until complete consumption of the starting material is determined by TLC. The solvent is removed, and the residue is neutralized with 1N HCl until pH <7 to precipitate a white solid, which is collected by filtration followed by washing with water and ethyl ether/hexanes (1:1). The obtained solid is further purified by flash column chromatography, eluting with methanol/methylene chloride (1:40), to give the title product (10.7 mg, 2.7% yield), m.p. 272-275° C. 1H NMR (300 MHz, CDCl3+2 drops DMSO-d6): δ 8.54 (2H, d, J=8.3 Hz), 8.23 (2H, d, J=8.6 Hz), 8.09 (2H, d, J=8.3 Hz), 7.71 (2H, d, J=8.6 Hz), 7.48 (1H, s), 2.61 (3H, s). MS (ES+): m/e 359.27.

reactant | 3-dimethylamino-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one | 1.13 mmol, 290.1 mg | CN(C(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C13H14F3NO
reactant | 4-carbamimidoyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)C(N)=N)=O | C12H16N2O2
reactant | 3-carbamimidoyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC=C1)C(N)=N)=O | C12H16N2O2
reactant | sodium hydride | 2.00 mmol, 79.9 mg | [H-].[Na+]
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | 4-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-benzoic acid | 10.7 mg, 2.7% yield | CC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C(=O)O)C=C1 | C19H13F3N2O2
